US05763458
Proceeding as in Example 4, Step (c), but replacing 1-4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one and piperidine with azacycloheptane, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-(azacyclohept-1-yl)pentan-1-one, m.p. 137°-139° C.

reactant | 5-chloropentan-1-one | ClCCCCC=O | C5H9ClO
reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | azacycloheptane | N1CCCCCC1 | C6H13N
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-(azacyclohept-1-yl)pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCCC1)=O)OCC1=CC(=CC(=C1)OC)OC | C26H35ClN2O4
